US06603012B2
30.1. Preparation of 2-methyl-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-propanol
0.66 g of 2-methyl-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-propanoic acid dissolved in 14 ml THF were treated with 24 ml of 1M lithium aluminium hydride solution in ether. The mixture was stirred at room temperature for 18 hours. The mixture was quenched by slowly adding Na2SO4.H2O until no more H2 evolved. The solid was filtered off and the solvent was evaporated, giving a pale yellow oil which was purified by flask chromatography (SiO2, 10% ethyl acetate/hexanes). 1H NMR (CDCl3): 7.29 (d, J=2.2 Hz, 1H), 7.25 (d, J=8.3 Hz, 1H), 7.12 (dd, J=8.3, 2.2 Hz, 1H), 3.55 (br. d, J=5.4 Hz, 2H), 1.67 (s, 4H), 1.31 (s, 6H), 1.28 (s, 6H), 1.27 (s, 6H).

reactant | 2-methyl-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-propanoic acid | 0.66 g | CC(C(=O)O)(C)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C18H26O2
reactant | lithium aluminium hydride | 1M, 24 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 14 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 2-methyl-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-propanol | CC(CO)(C)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C18H28O
